US08278343B2
Preparation 34: 1-(4-Chloro-benzoyl)-3-(4′-cyano-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 1-(4-chloro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 13) and 4′-hydroxy-4-biphenyl carbonitrile to afford the racemate as a white solid (181 mg, 79.6%)

reactant | 1-(4-chloro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)CI | C15H17ClINO3
reactant | 4′-hydroxy-4-biphenyl carbonitrile | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
product | 1-(4-Chloro-benzoyl)-3-(4′-cyano-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C28H25ClN2O4
